US09353121B2
A mixture of anisaldehyde (350 μL, 2.87 mmol, 1.0 equ.), malononitrile (190 mg, 2.87 mmol, 1.0 equ.) and triethylamine (400 μL, 2.87 mmol, 1.0 equ.) in ethanol (10 mL) is stirred for 1 min, followed by the addition of 1,3-diphenyl-1H-pyrazol-5(4H)-one (678 mg, 2.87 mmol, 1 equ.). The reaction mixture was concentrated after 24 h and the precipitate was washed with ethanol and hexanes. The product was re-crystallized from ethanol to afford 6-amino-4-(4-methoxyphenyl)-1-methyl-3-phenyl-1,4-dihydropyrano[2,3-c]pyrazole-5-carbonitrile (1.05 g, 87%, 2.50 mmol) as a white solid. 1H-NMR (400 MHz) DMSO: 7.94-7.92 (d, 2H), 7.63-7.61 (d, 2H), 7.57-7.53 (t, 2H), 7.40-7.36 (t, 1H), 7.29-7.23 (m, 3H) 7.15 (s, 2H), 7.13-7.11 (d, 2H), 6.78-6.76 (d, 2H), 5.02 (s, 1H), 3.65 (s, 3H), 13C-NMR (100 MHz) DMSO: 158.9, 158.4, 146.7, 145.6, 137.9, 136.5, 132.6, 129.8, 129.0, 128.7, 128.5, 127.2, 127.0, 121.2, 120.3, 114.2, 98.3, 60.2, 55.3, 37.1; LC/MS-MS: 421.2→355.0 m/z; GS1 and GS2 at 30, DP=81, CE=35, CXP=24, tR=4.32 min.

reactant | anisaldehyde | 2.87 mmol, 350 μL | COC=1C=CC(=CC1)C=O | C8H8O2
reactant | malononitrile | 2.87 mmol, 190 mg | C(CC#N)#N | C3H2N2
reactant | triethylamine | 2.87 mmol, 400 μL | C(C)N(CC)CC | C6H15N
reactant | 1,3-diphenyl-1H-pyrazol-5(4H)-one | 2.87 mmol, 678 mg | C1(=CC=CC=C1)N1N=C(CC1=O)C1=CC=CC=C1 | C15H12N2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 6-amino-4-(4-methoxyphenyl)-1-methyl-3-phenyl-1,4-dihydropyrano[2,3-c]pyrazole-5-carbonitrile | 2.50 mmol, 1.05 g, 87% | NC1=C(C(C2=C(N(N=C2C2=CC=CC=C2)C)O1)C1=CC=C(C=C1)OC)C#N | C21H18N4O2
